US06057335
Preparation of 3-(2-indanyl)carbonylamino-5-(4-propylphenyl)-pyrazole
The title compound was prepared in the same manner as that described in Example 38 except that 3-(2-indanyl)carbonylamino-5-(4-vinylphenyl)pyrazole used in Example 38 was replaced with 3-(2-indanyl)carbonylamino-5-{4-(2-propenyl)phenyl}pyrazole.

reactant | 3-(2-indanyl)carbonylamino-5-(4-vinylphenyl)pyrazole | C1C(CC2=CC=CC=C12)C(=O)NC1=NNC(=C1)C1=CC=C(C=C1)C=C | C21H19N3O
reactant | 3-(2-indanyl)carbonylamino-5-{4-(2-propenyl)phenyl}pyrazole | C1C(CC2=CC=CC=C12)C(=O)NC1=NNC(=C1)C1=CC=C(C=C1)CC=C | C22H21N3O
product | 3-(2-indanyl)carbonylamino-5-(4-propylphenyl)-pyrazole | C1C(CC2=CC=CC=C12)C(=O)NC1=NNC(=C1)C1=CC=C(C=C1)CCC | C22H23N3O
